// Generated for: spectre
// Generated on: Feb 16 09:01:45 2023
// Design library name: Ranking_Rebuttal3
// Design cell name: ampjtlchain_r1tor8_2x
// Design view name: schematic
simulator lang=spectre
global 0
parameters VCC=2.6m
include "<path/to/model/files>"

// Library name: MITLL_SFQ
// Cell name: jjsh
// View name: schematic
subckt jjsh B T
parameters jjsh_rl=700n jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=700n
    R0 (T B) res_r5 l=jjsh_rl w=jjsh_rw rsh=jjsh_rsh
    J0 (T B) model_jj ic_v=0 ic_phase=0 mfactor=1 d=jjsh_d
ends jjsh
// End of subcircuit definition.

// Library name: Ranking_Rebuttal3
// Cell name: dcsfq_suny1
// View name: schematic
subckt dcsfq_suny1 IN OUT VCC
    I3 (0 net12) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 jjsh_d=1.8u
    I2 (0 net9) jjsh jjsh_rl=950n jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.5u
    I1 (net10 net14) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.5u
    I0 (net13 net7) jjsh jjsh_rl=1u jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.4u
    R0 (VCC net11) res_r5 l=1.75u w=500n rsh=2.0
    L8 (net12 OUT) inductor l=2.11p
    L7 (net11 net12) inductor l=1.74p
    L6 (net13 net9) inductor l=690.00f
    L5 (net10 net9) inductor l=210.00f
    L4 (net7 0) inductor l=3.59p
    L3 (net8 net7) inductor l=1.27p
    L2 (net10 net11) inductor l=1.14p
    L1 (net8 net14) inductor l=1.29p
    L0 (IN net8) inductor l=3.35p
ends dcsfq_suny1
// End of subcircuit definition.

// Library name: Ranking_Rebuttal
// Cell name: jtl_125to250uA
// View name: schematic
subckt jtl_125to250uA IN OUT VCC
    L3 (net9 OUT) inductor l=700.0f
    L2 (net8 net9) inductor l=750.00f
    L1 (net7 net8) inductor l=1.5p
    L0 (IN net7) inductor l=2p
    I1 (0 net9) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 jjsh_d=1.8u
    I0 (0 net7) jjsh jjsh_rl=1.2u jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.3u
    R0 (VCC net8) res_r5 l=2u w=500n rsh=2.0
ends jtl_125to250uA
// End of subcircuit definition.

// Library name: Ranking_Rebuttal
// Cell name: jtl_500uA
// View name: schematic
subckt jtl_500uA IN OUT VCC
    L3 (net9 OUT) inductor l=500.0f
    L2 (net8 net9) inductor l=500.0f
    L1 (net7 net8) inductor l=500.0f
    L0 (IN net7) inductor l=500.0f
    I1 (0 net9) jjsh jjsh_rl=700n jjsh_rw=1.15u jjsh_rsh=2.0 jjsh_d=2.55u
    I0 (0 net7) jjsh jjsh_rl=700n jjsh_rw=1.15u jjsh_rsh=2.0 jjsh_d=2.55u
    R0 (VCC net8) res_r5 l=950n w=500n rsh=2.0
ends jtl_500uA
// End of subcircuit definition.

// Library name: Ranking_Rebuttal
// Cell name: jtl_46to88uA
// View name: schematic
subckt jtl_46to88uA IN OUT VCC
    L3 (net9 OUT) inductor l=2p
    L2 (net8 net9) inductor l=2p
    L1 (net7 net8) inductor l=4p
    L0 (IN net7) inductor l=5.5p
    I1 (0 net9) jjsh jjsh_rl=1.7u jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.1u
    I0 (0 net7) jjsh jjsh_rl=3u jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=850.0n
    R0 (VCC net8) res_r5 l=5.5u w=500n rsh=2.0
ends jtl_46to88uA
// End of subcircuit definition.

// Library name: Ranking_Rebuttal
// Cell name: jtl_46uA
// View name: schematic
subckt jtl_46uA IN OUT VCC
    L3 (net9 OUT) inductor l=11p
    L2 (net8 net9) inductor l=11p
    L1 (net7 net8) inductor l=11p
    L0 (IN net7) inductor l=11p
    I1 (0 net9) jjsh jjsh_rl=3u jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=850.0n
    I0 (0 net7) jjsh jjsh_rl=3u jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=850.0n
    R0 (VCC net8) res_r5 l=9.5u w=500n rsh=2.0
ends jtl_46uA
// End of subcircuit definition.

// Library name: Ranking_Rebuttal
// Cell name: jtl_353to500uA
// View name: schematic
subckt jtl_353to500uA IN OUT VCC
    L3 (net9 OUT) inductor l=700.0f
    L2 (net8 net9) inductor l=700.0f
    L1 (net7 net8) inductor l=1p
    L0 (IN net7) inductor l=1p
    I1 (0 net9) jjsh jjsh_rl=700n jjsh_rw=1.15u jjsh_rsh=2.0 jjsh_d=2.55u
    I0 (0 net7) jjsh jjsh_rl=700n jjsh_rw=800n jjsh_rsh=2.0 jjsh_d=2.15u
    R0 (VCC net8) res_r5 l=1.1u w=500n rsh=2.0
ends jtl_353to500uA
// End of subcircuit definition.

// Library name: Ranking_Rebuttal3
// Cell name: ampjtlchain_r1tor8_2x
// View name: schematic
I0 (0 net6) isource type=pulse val0=0 val1=500.0u period=200p delay=100p \
        rise=20p fall=20p width=10p
V1 (net5 0) vsource type=pwl wave=[ 0 0 1p VCC ]
V0 (net032 0) vsource type=pwl wave=[ 0 0 1p 2.6m ]
I87 (net6 net7 net032) dcsfq_suny1
I86 (net019 net016 net5) jtl_125to250uA
I74 (net014 net09 net5) jtl_500uA
I73 (OUT net014 net5) jtl_500uA
I85 (net022 net019 net5) jtl_46to88uA
I77 (net7 IN net5) jtl_46uA
I84 (net021 net022 net5) jtl_46uA
I79 (net015 net021 net5) jtl_46uA
I78 (IN net015 net5) jtl_46uA
I83 (net016 OUT net5) jtl_353to500uA
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=800p start=-1p step=0.1p maxstep=0.5p minstep=0.05p \
    write="spectre.ic" writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
