// Generated for: spectre
// Generated on: Feb 16 08:25:02 2023
// Design library name: Ranking_Rebuttal
// Design cell name: fo8_wspl_fig9
// Design view name: schematic
simulator lang=spectre
global 0
parameters VCC=2.6m
include "<path/to/model/files>"

// Library name: MITLL_SFQ
// Cell name: jjsh
// View name: schematic
subckt jjsh B T
parameters jjsh_rl=700n jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=700n
    R0 (T B) res_r5 l=jjsh_rl w=jjsh_rw rsh=jjsh_rsh
    J0 (T B) model_jj ic_v=0 ic_phase=0 mfactor=1 d=jjsh_d
ends jjsh
// End of subcircuit definition.

// Library name: MITLL_UCSB
// Cell name: split4
// View name: schematic
subckt split4 GND IN OUT1 OUT2 VCC
    L5 (net14 OUT2) inductor l=1p
    L4 (net15 OUT1) inductor l=1p
    L3 (net10 net15) inductor l=750.00f
    L2 (net14 net10) inductor l=750.00f
    L1 (net8 net10) inductor l=1p
    L0 (IN net8) inductor l=800.0f
    I3 (net14 GND) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 jjsh_d=1.8u
    I2 (GND net15) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 jjsh_d=1.8u
    I1 (GND net8) jjsh jjsh_rl=750n jjsh_rw=800n jjsh_rsh=2.0 jjsh_d=2.15u
    R1 (VCC net8) res_r5 l=1.35u w=500n rsh=2.0
ends split4
// End of subcircuit definition.

// Library name: Ranking_Rebuttal
// Cell name: jtl_250uA
// View name: schematic
subckt jtl_250uA IN OUT VCC
    L3 (net9 OUT) inductor l=1p
    L2 (net8 net9) inductor l=1p
    L1 (net7 net8) inductor l=1p
    L0 (IN net7) inductor l=1p
    I1 (0 net9) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 jjsh_d=1.8u
    I0 (0 net7) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 jjsh_d=1.8u
    R0 (VCC net8) res_r5 l=1.85u w=500n rsh=2.0
ends jtl_250uA
// End of subcircuit definition.

// Library name: Ranking_Rebuttal
// Cell name: dcsfq_suny1
// View name: schematic
subckt dcsfq_suny1 IN OUT VCC
    I3 (0 net12) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 jjsh_d=1.8u
    I2 (0 net9) jjsh jjsh_rl=950n jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.5u
    I1 (net10 net14) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.5u
    I0 (net13 net7) jjsh jjsh_rl=1u jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.4u
    R0 (VCC net11) res_r5 l=1.75u w=500n rsh=2.0
    L8 (net12 OUT) inductor l=2.11p
    L7 (net11 net12) inductor l=1.74p
    L6 (net13 net9) inductor l=690.00f
    L5 (net10 net9) inductor l=210.00f
    L4 (net7 0) inductor l=3.59p
    L3 (net8 net7) inductor l=1.27p
    L2 (net10 net11) inductor l=1.14p
    L1 (net8 net14) inductor l=1.29p
    L0 (IN net8) inductor l=3.35p
ends dcsfq_suny1
// End of subcircuit definition.

// Library name: Ranking_Rebuttal
// Cell name: fo8_wspl_fig9
// View name: schematic
I0 (0 net6) isource type=pulse val0=0 val1=500.0u period=200p delay=30p \
        rise=20p fall=20p width=10p
V1 (net4 0) vsource type=pwl wave=[ 0 0 1p VCC ]
V0 (net5 0) vsource type=pwl wave=[ 0 0 1p 2.6m ]
I120 (0 net028 net037 net036 net4) split4
I119 (0 net022 net026 net025 net4) split4
I118 (0 net023 net028 net027 net4) split4
I123 (0 net025 net031 net030 net4) split4
I122 (0 net026 net033 net032 net4) split4
I121 (0 net027 net035 net034 net4) split4
I117 (0 net053 net023 net022 net4) split4
I155 (net068 net040 net4) jtl_250uA
I154 (net031 net068 net4) jtl_250uA
I153 (net030 net074 net4) jtl_250uA
I152 (net074 net041 net4) jtl_250uA
I151 (net041 net073 net4) jtl_250uA
I148 (net040 net072 net4) jtl_250uA
I147 (net064 net044 net4) jtl_250uA
I144 (net073 net043 net4) jtl_250uA
I143 (net071 net042 net4) jtl_250uA
I140 (net066 net039 net4) jtl_250uA
I139 (net048 net063 net4) jtl_250uA
I136 (net034 net070 net4) jtl_250uA
I135 (net035 net060 net4) jtl_250uA
I124 (OUT1 net069 net4) jtl_250uA
I128 (net036 net058 net4) jtl_250uA
I132 (net049 net065 net4) jtl_250uA
I134 (net060 net049 net4) jtl_250uA
I127 (net069 net075 net4) jtl_250uA
I131 (net077 net059 net4) jtl_250uA
I133 (net065 net050 net4) jtl_250uA
I138 (net063 net047 net4) jtl_250uA
I142 (net067 net046 net4) jtl_250uA
I141 (net033 net067 net4) jtl_250uA
I146 (net039 net071 net4) jtl_250uA
I150 (net046 net064 net4) jtl_250uA
I81 (net052 net054 net4) jtl_250uA
I79 (net7 IN net4) jtl_250uA
I149 (net032 net066 net4) jtl_250uA
I145 (net072 net045 net4) jtl_250uA
I80 (IN net052 net4) jtl_250uA
I82 (net054 net053 net4) jtl_250uA
I137 (net070 net048 net4) jtl_250uA
I130 (net059 net051 net4) jtl_250uA
I126 (net057 OUT1 net4) jtl_250uA
I125 (net037 net057 net4) jtl_250uA
I129 (net058 net077 net4) jtl_250uA
I78 (net6 net7 net5) dcsfq_suny1
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=800p start=0 step=0.1p maxstep=0.5p minstep=0.05p \
    write="spectre.ic" writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
